US05864039
N-(4-((3R)-3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)-butyl)-1-methyl-1 H-indole-2-carboxamide (0.95 g) as starting compound was reacted and treated in the same manner as in Example 67 using 4-amino-5-chloro-2-methoxybenzoic acid (0.45 g) to give N-(4-((3R)-3-(4-amino-5-chloro-2-methoxybenzoylaminomethyl)pyrrolidin-1-yl)butyl)-1-methyl-1 H-indole-2-carboxamide.

reactant | N-(4-((3R)-3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)-butyl)-1-methyl-1 H-indole-2-carboxamide | 0.95 g | C(C)(C)(C)OC(=O)NC[C@@H]1CN(CC1)CCCCNC(=O)C=1N(C2=CC=CC=C2C1)C | C24H36N4O3
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 0.45 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
product | N-(4-((3R)-3-(4-amino-5-chloro-2-methoxybenzoylaminomethyl)pyrrolidin-1-yl)butyl)-1-methyl-1 H-indole-2-carboxamide | NC1=CC(=C(C(=O)NC[C@@H]2CN(CC2)CCCCNC(=O)C=2N(C3=CC=CC=C3C2)C)C=C1Cl)OC | C27H34ClN5O3
